US06589968B2
(c) (2S,3S,6R,7S,8S)-5-oxo-3-(triethylsilyloxy)-2,4,4,6,8-pentamethyl-7-(2,2,2-trichloroethoxycarbonyloxy)-10-undecenoic acid
A solution of (4S)-3-[(2S,3S,6R,7S,8S)-5-oxo-3-(triethylsilyloxy)-2,4,4,6,8-pentamethyl-7-(2,2,2-trichloroethoxycarbonyloxy)-10-undecenoyl]-4-benzyloxazolidinone (21.5 g) in 125 mL of 4:1 THF/water is cooled on ice and treated with 10.2 mL of 30% H2O2 followed by a solution of lithium hydroxide (0.96 g) in 50 mL of water. After 1 hour, a solution of sodium sulfite (12.6 g) in 75 mL of water is added, and the mixture is adjusted to pH 3 and concentrated under vacuum. The resulting slurry is extracted with ethyl acetate. The extract is washed with brine, dried over MgSO4, filtered, and evaporated. The product is purified by chromatography on SiO2.

reactant | (4S)-3-[(2S,3S,6R,7S,8S)-5-oxo-3-(triethylsilyloxy)-2,4,4,6,8-pentamethyl-7-(2,2,2-trichloroethoxycarbonyloxy)-10-undecenoyl]-4-benzyloxazolidinone | 21.5 g | O=C(C([C@H]([C@@H](C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)C)O[Si](CC)(CC)CC)(C)C)[C@@H]([C@H]([C@H](CC=C)C)OC(=O)OCC(Cl)(Cl)Cl)C | C35H52Cl3NO8Si
reactant | H2O2 | 10.2 mL | OO | H2O2
reactant | lithium hydroxide | 0.96 g | [OH-].[Li+]
reactant | sodium sulfite | 12.6 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | THF water | 125 mL | C1CCOC1.O
solvent | water | 50 mL | O | H2O
solvent | water | 75 mL | O | H2O
product | (2S,3S,6R,7S,8S)-5-oxo-3-(triethylsilyloxy)-2,4,4,6,8-pentamethyl-7-(2,2,2-trichloroethoxycarbonyloxy)-10-undecenoic acid | O=C(C([C@H]([C@@H](C(=O)O)C)O[Si](CC)(CC)CC)(C)C)[C@@H]([C@H]([C@H](CC=C)C)OC(=O)OCC(Cl)(Cl)Cl)C | C25H43Cl3O7Si
